US07148246B2
4-(cis-3-Allylcyclohexyloxymethyl)-2-(3-methylphenyl)-5-methyloxazole
2 g of cis-3-allylcyclohexanol are dissolved in 30 ml of dimethylformamide, and 750 mg of sodium hydride (60% strength suspension in paraffin oil) are added. After 30 minutes, 6.7 g of 4-iodomethyl-5-methyl-2-(3-methylphenyl)oxazole, dissolved in 20 ml of dimethylformamide, are added dropwise. The mixture is stirred at room temperature for 1 hour. 200 ml of methy tert-buthyl ether are then added to the reaction mixture, and the mixture is washed three times with water. The organic phase is dried over magnesium sulfate and the solvent is then removed under reduced pressure. The residue is purified by RP-HPLC. This gives 1.56 g of 4-(cis-3-allylcyclohexyloxymethyl)-2-(3-methylphenyl)-5-methyloxazole as an oil. C21H27NO2 (325.45), MS (ESI): 326 (M+H+), Rf(n-heptane:ethylacetate=2:1)=0.28.

reactant | cis-3-allylcyclohexanol | 2 g | C(C=C)[C@H]1C[C@H](CCC1)O | C9H16O
reactant | sodium hydride | 750 mg | [H-].[Na+]
reactant | 4-iodomethyl-5-methyl-2-(3-methylphenyl)oxazole | 6.7 g | ICC=1N=C(OC1C)C1=CC(=CC=C1)C | C12H12INO
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(cis-3-Allylcyclohexyloxymethyl)-2-(3-methylphenyl)-5-methyloxazole | C(C=C)[C@H]1C[C@H](CCC1)OCC=1N=C(OC1C)C1=CC(=CC=C1)C | C21H27NO2
